US07547691B2
4-(2-Aminoethyl)-piperidine-1-carboxylic acid tert-butyl ester (1.22 g, 5.35 mmol) is added to a stirred suspension of 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide (0.736 g, 2.14 mmol) and diisopropylethylamine (1.12 mL, 6.42 mmol) in anhydrous 1,4-dioxane (8 mL) at room temperature under nitrogen. The resultant mixture is heated in an oil bath at 97° C. for 48 hours. At room temperature the mixture is concentrated and chromatographed on silica gel, eluting with CH3OH in dichloromethane: 0-4%, to give 4-{2-[4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-5-methyl-pyrimidin-2-ylamino]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester as a solid.

reactant | 4-(2-Aminoethyl)-piperidine-1-carboxylic acid tert-butyl ester | 5.35 mmol, 1.22 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN | C12H24N2O2
reactant | 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 2.14 mmol, 0.736 g | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)Cl | C17H14ClN3OS
reactant | diisopropylethylamine | 6.42 mmol, 1.12 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 4-{2-[4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-5-methyl-pyrimidin-2-ylamino]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCNC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(NC2CC2)=O)C | C29H37N5O3S
